US04210758
Ethyl 1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylate
A mixture of ethyl 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]-pyridine-2-carboxylate (11.0 g, 0.0386 mole), methyl iodide (22.0 g, 0.154 mole) and potassium carbonate (10.7 g, 0.077 mole) in dimethylformamide (175 ml) is heated at 80° C. for 3 hours under nitrogen. The reaction mixture is cooled and poured into excess cold water. The product, which precipitated, is filtered off and recrystallized from dimethylformamide as white crystals (7.2 g, 62%), m.p. 203°-208° C.

reactant | ethyl 1,5-dihydro-1,5-dioxo-4H-1-benzopyrano[3,4-b]-pyridine-2-carboxylate | 0.0386 mole, 11.0 g | O=C1C2=C(NC=C1C(=O)OCC)C(OC1=C2C=CC=C1)=O | C15H11NO5
reactant | methyl iodide | 0.154 mole, 22.0 g | CI | CH3I
reactant | potassium carbonate | 0.077 mole, 10.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | dimethylformamide | 175 ml | CN(C=O)C | C3H7NO
product | Ethyl 1,5-dihydro-1,5-dioxo-4-methyl-1-benzopyrano[3,4-b]pyridine-2-carboxylate | O=C1C2=C(N(C=C1C(=O)OCC)C)C(OC1=C2C=CC=C1)=O | C16H13NO5
